US05053509
A suspension of (RS)-8-(3-benzyl-1-piperazinyl)-3-ethoxycarbonyl-7-fluoro-1-methyl-4-oxo-1,4dihydrobenzo[b][1,8]naphthyridine (2.65 g) in N aqueous potassium hydroxide (14 cc) and ethanol (20 cc) is heated to a temperature in the region of 80° C. for 20 minutes, treated at the same temperature with 5% strength acetic acid (32 cc) and stirred for 20 minutes. The insoluble matter is drained at approximately 80° C. and washed with water (2×20 cc), ethanol (2×20 cc) and ethyl ether (2×20 cc). After 2 recrystallizations in dimethylformamide (50 cc each time), (RS)-8-(3-benzyl-1-piperazinyl)-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid (2.05 g) is obtained in the form of a yellow solid, decomposing at 270°-275° C.

reactant | (RS)-8-(3-benzyl-1-piperazinyl)-3-ethoxycarbonyl-7-fluoro-1-methyl-4-oxo-1,4dihydrobenzo[b][1,8]naphthyridine | 2.65 g | C(C1=CC=CC=C1)C1CN(CCN1)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)C)C1)F | C27H27FN4O3
reactant | acetic acid | 32 cc | C(C)(=O)O | C2H4O2
solvent | potassium hydroxide | 14 cc | [OH-].[K+]
solvent | ethanol | 20 cc | C(C)O | C2H6O
product | (RS)-8-(3-benzyl-1-piperazinyl)-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 2.05 g | C(C1=CC=CC=C1)C1CN(CCN1)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F | C25H23FN4O3
